US09238639B2
Methyl(4-methyl-6-((2-methyl-6-(trifluoromethyl)pyridin-3-yl)methoxy)-1-benzothiophen-3-yl)acetate
To a mixture of methyl(6-hydroxy-4-methyl-1-benzothiophen-3-yl)acetate (150 mg) and THF (dry) (5 mL) were added (2-methyl-6-(trifluoromethyl)pyridin-3-yl)methanol (133 mg), tri-n-butylphosphine (0.204 mL) and ADDP (192 mg) at room temperature. The mixture was stirred at room temperature for 4 h. The insoluble material was removed by filtration, and the filtrate was concentrated in vacuo. The residue was purified by silica gel column chromatography (EtOAc/hexane) to give the title compound (238 mg).

reactant | methyl(6-hydroxy-4-methyl-1-benzothiophen-3-yl)acetate | 150 mg | COC(CC1=CSC2=C1C(=CC(=C2)O)C)=O | C12H12O3S
reactant | (2-methyl-6-(trifluoromethyl)pyridin-3-yl)methanol | 133 mg | CC1=NC(=CC=C1CO)C(F)(F)F | C8H8F3NO
reactant | tri-n-butylphosphine | 0.204 mL | C(CCC)P(CCCC)CCCC | C12H27P
reactant | ADDP | 192 mg | C1CCN(CC1)C(=O)N=NC(=O)N2CCCCC2 | C12H20N4O2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | Methyl(4-methyl-6-((2-methyl-6-(trifluoromethyl)pyridin-3-yl)methoxy)-1-benzothiophen-3-yl)acetate | 238 mg | COC(CC1=CSC2=C1C(=CC(=C2)OCC=2C(=NC(=CC2)C(F)(F)F)C)C)=O | C20H18F3NO3S
